US07608631B2
Preparation of 1-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-1H-pyrrole
200 mg of 1,3-dichloro-5-(3,3-dichloro-allyloxy)-2-[3-(4-iodo-phenoxy)-propoxy]-benzene, 29 mg of pyrrole, 6.9 mg of copper(I) iodide, 2.2 mg of ethylenediamine and 155 mg of potassium triphosphate are stirred for 24 hours at 110° C. in 4 ml of dioxane. The reaction mixture is diluted with ethyl acetate and filtered. Concentration and purification over silica gel yield the title compound (compound 1.1).

reactant | 1,3-dichloro-5-(3,3-dichloro-allyloxy)-2-[3-(4-iodo-phenoxy)-propoxy]-benzene | 200 mg | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)OCCCOC1=CC=C(C=C1)I | C18H15Cl4IO3
reactant | pyrrole | 29 mg | N1C=CC=C1 | C4H5N
reactant | ethylenediamine | 2.2 mg | C(CN)N | C2H8N2
reactant | potassium triphosphate | 155 mg | [O-]P([O-])(=O)OP(=O)([O-])OP(=O)([O-])[O-].[K+].[K+].[K+].[K+].[K+]
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper(I) iodide | 6.9 mg | [Cu]I
product | 1-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-1H-pyrrole | ClC1=C(OCCCOC2=CC=C(C=C2)N2C=CC=C2)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C22H19Cl4NO3
